Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([H:7])([H:8])([H:9])[H:15].[C:2](=[N:3][C:4]([H:12])([H:13])[H:14])([H:10])[H:11],81.22478196787371
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C-:4]#[O+:5].[C:1]([C@@:2]([O:3][H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],63.1129201763194
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([C:2](=[O:3])[C:4]([O:5][H:12])([H:11])[H:13])([H:8])([H:9])[H:10],63.96295565202821
[C:1]([O+:2]=[C-:3][C:4]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10].[C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:11])([H:15])[H:16]>>[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],15.690656428861594
[C:1]([C:2][C:3]([H:11])([H:12])[H:13])([H:7])([H:8])[H:9].[C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:10])([H:14])[H:15]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],1.623443198215199
[C:1](#[C:2][C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C@@:1]1([C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])[C:2][C:3]1([H:8])[H:9],93.7940152194587
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]#[N:6])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[H:7])([N:6]=[C:5]=[C:4]([H:13])[H:14])([H:8])[H:9],85.21837247055079
[C:1]([C@@:2]12[C@@:3]([H:11])([C-:4]=[O+:6][C:7]1([H:13])[H:14])[N:5]2[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10],31.950072646526806
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:6]#[C:7][H:13])[H:11])([H:8])[H:10].[O:3]=[C:4]([O:5][H:9])[H:12],48.39564506213939
[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:17])[C:6]([H:15])=[C:7]1[H:16])([H:8])([H:9])[H:10],73.4791867948024
[N+:1]1([H:8])([H:9])[C:2](=[N:7][H:10])[N-:3]1.[O:4]=[C:5]=[O:6]>>[N:1]([c:2]1[n:3][o:4][c:5](=[O:6])[n:7]1[H:10])([H:8])[H:9],18.7673455243015
[C:1](=[C:2]([H:10])[H:11])([H:8])[H:9].[C:3](=[N:4][O:5][H:12])=[C:6]([H:13])[H:14].[H:7][H:15]>>[C:1]([C:2](/[C:3](=[N:4]\[O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],30.987826663619288
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:6]([O:7][H:17])([H:15])[H:16])([H:8])([H:9])[H:10].[C:3](=[C:4]([O:5][H:14])[H:13])([H:11])[H:12],88.2803025068012
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4]1=[C:5]([H:15])[H:16])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:14])[H:17]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],43.4481946376507
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:2]=[C:3]=[O:4],79.9771247087622
[C:2](#[C:3][H:7])[H:6].[O-:1][N+:5]#[C:4][H:8]>>[o:1]1[c:2]([H:6])[c:3]([H:7])[c:4]([H:8])[n:5]1,10.427978953010907
[O:1]([N:6]=[C:5]=[C:2]1[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],42.6166343590445
[C:1](=[C:2]=[O:3])([H:7])[H:8].[C:4](#[C:5][H:9])[H:6]>>[C:1]([C:2](=[O:3])[C:4]#[C:5][H:9])([H:6])([H:7])[H:8],44.5332186162201
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:7](=[C:6]=[C:3]([C:4]([H:13])([H:14])[H:15])[O:5][H:16])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10],80.24385000828909
[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](/[O:4][H:13])[H:11])[H:10])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15].[H:12][H:16],63.504840511148394
[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2]([C@@:3]1([H:11])[C:5]([O:4][H:12])=[N:6]1)([H:9])[H:10])([H:7])[H:8],75.39020068785
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:12].[O:2]=[C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])[H:11],121.05405951390199
[C:1]([C:2]([C:3]([C:4]#[C:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](/[C:3](=[C:4](/[C:5][H:13])[H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],66.89881204691599
[C:1]([O:2][C@@:3]1([H:12])[C:4]([C:7]([H:14])([H:15])[H:16])=[N:5]1)([H:8])([H:9])[H:10].[O:6]([H:11])[H:13]>>[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],49.26934925669615
